US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-(1,1-dimethyl-propyl)-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-phenyl-methanone and 123 mg of 4-(1,1-dimethyl-propyl)-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 0.56 (t, 3H, J=7.2 Hz), 1.18 (s, 6H), 1.54 (q, 2H, J=7.2 Hz), 7.25 (d, 2H, J=8.4 Hz), 7.34 (d, 1H, J=2.8 Hz), 7.40 (m, 4H), 7.45 (dd, 1H, J=8.8 Hz, 2.0 Hz), 7.56–7.62 (m, 3H, 7.78 (d, 1H, J=8.8 Hz), 9.95 (s, 1H). MS: m/z 442.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-phenyl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-(1,1-dimethyl-propyl)-benzenesulfonyl chloride | 123 mg | CC(CC)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H15ClO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-(1,1-dimethyl-propyl)-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(CC)(C)C | C24H24ClNO3S
